US08865029B2
2,2-Bis(4-methoxyphenyl)-5-(2-hydroxyethoxycarbonyl)-6-phenyl-[2H]-naphtho[1,2-b]pyran (U.S. Pat. No. 6,113,814) (0.50 g, 0.90 mmol) was dissolved in dry dichloromethane (20 ml) together with triethylamine (0.25 ml), under nitrogen. To this solution was added propionyl chloride (0.083 g, 0.90 mmol) and the mixture stirred at RT for 15 minutes. The solvent was evaporated and the crude residue purified by column chromatography (silica gel, EtOAc/hexane, 2:3) giving a pink foamy solid on evaporation of the solvent in vacuo. Analysis of the purified product by 1H NMR gave a spectrum consistent with the structure of 2,2-Bis(4-methoxyphenyl)-5-(2-propionyloxy-ethoxycarbonyl)-6-phenyl-[2H]-naphtho[1,2-b]pyran.

reactant | 2,2-Bis(4-methoxyphenyl)-5-(2-hydroxyethoxycarbonyl)-6-phenyl-[2H]-naphtho[1,2-b]pyran | COC1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OCCO)C2=CC=CC=C2)C2=CC=C(C=C2)OC | C36H30O6
reactant | propionyl chloride | 0.90 mmol, 0.083 g | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
product | 2,2-Bis(4-methoxyphenyl)-5-(2-propionyloxy-ethoxycarbonyl)-6-phenyl-[2H]-naphtho[1,2-b]pyran | COC1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OCCOC(CC)=O)C2=CC=CC=C2)C2=CC=C(C=C2)OC | C39H34O7
